US04871470
A mixture of 400 g of trans-4-[trans-4-(trans-4-n-propylcyclohexylethyl)-cyclohexylethyl]-cyclohexanecarboxylic acid (obtainable by alkaline hydrolysis of p-[trans-4-(trans-4-n-propylcyclohexylethyl)-cyclohexylethyl]-benzonitrile (European Published Application No. 0 129,177) with KOH in diethylene glycol at 150° C., esterification of the resulting acid by boiling in ethanol in the presence of concentrated sulfuric acid, catalytic hydrogenation of the ester over an Rh catalyst under 3 bar and hydrolysis of the hydrogenated ester) and 100 g of n-pentanol is boiled in the presence of catalytic quantities of toluenesulfonic acid under a water separator and worked up as usual. This gives a pentyl trans-4-[trans-4-(trans-4-n-propylcyclohexylethyl)-cyclohexylethyl]-cyclohexanecarboxylate.

reactant | trans-4-[trans-4-(trans-4-n-propylcyclohexylethyl)-cyclohexylethyl]-cyclohexanecarboxylic acid | 400 g | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C(=O)O | C26H46O2
reactant | p-[trans-4-(trans-4-n-propylcyclohexylethyl)-cyclohexylethyl]-benzonitrile | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)CCC1=CC=C(C#N)C=C1 | C26H39N
reactant | KOH | [OH-].[K+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | n-pentanol | 100 g | C(CCCC)O | C5H12O
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | diethylene glycol | C(COCCO)O | C4H10O3
solvent | ethanol | C(C)O | C2H6O
product | pentyl trans-4-[trans-4-(trans-4-n-propylcyclohexylethyl)-cyclohexylethyl]-cyclohexanecarboxylate | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C(=O)OCCCCC | C31H56O2
